US05436257
5-{4-[2(R)-[2(R)-(3-Chlorophenyl)-2-t-butyldimethylsilyloxyethylamino]propoxy]benzyl}thiazolidine-2,4-dione
A mixture of 36.5 g of 5-{4-[2(R)-aminopropoxy]benzyl}thiazolidine-2,4-dione trifluoroacetate [prepared as described in Preparation 2], 98.4 g of (R)-α-(t-butyldimethylsilyloxy)-α-(3-chlorophenyl)acetaldehyde [prepared as described in Preparation 12] and 400 ml of absolute methanol was stirred at room temperature for 2.5 hours, after which the mixture was cooled using a salted ice-bath. 29.0 g of sodium cyanoborohydride were then added to the mixture in small portions, and the mixture was allowed to stand overnight at room temperature. At the end of this time, the methanol was distilled off under reduced pressure, the residue was mixed with water and ethyl acetate, and the ethyl acetate layer was separated from the mixture. The ethyl acetate layer was then washed with a saturated aqueous solution of sodium chloride, after which it was dried over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure. The residue was purified by column chromatography through silica gel, using a 2:1 by volume mixture of ethyl acetate and hexane as the eluent, to give 46.5 g of the title compound.

reactant | 5-{4-[2(R)-aminopropoxy]benzyl}thiazolidine-2,4-dione trifluoroacetate | 36.5 g | FC(C(=O)O)(F)F.N[C@@H](COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C
reactant | (R)-α-(t-butyldimethylsilyloxy)-α-(3-chlorophenyl)acetaldehyde | 98.4 g | [Si](C)(C)(C(C)(C)C)O[C@@H](C=O)C1=CC(=CC=C1)Cl | C14H21ClO2Si
reactant | sodium cyanoborohydride | 29.0 g | C(#N)[BH3-].[Na+]
solvent | methanol | 400 ml | CO | CH4O
product | 5-{4-[2(R)-[2(R)-(3-Chlorophenyl)-2-t-butyldimethylsilyloxyethylamino]propoxy]benzyl}thiazolidine-2,4-dione | 46.5 g | ClC=1C=C(C=CC1)[C@H](CN[C@@H](COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C)O[Si](C)(C)C(C)(C)C | C27H37ClN2O4SSi
